US07259177B2
(cis-3-Allylcyclohexyloxy)-tert-butyldiphenylsilane
6.8 g of cis-3-allylcyclohexanol are, together with 15 ml of tert-butyl-diphenylsilyl chloride, 5 g of imidazole and 200 mg of dimethyl-aminopyridine, dissolved in 100 ml of dimethylformamide, and the mixture is stirred at room temperature for 12 h. 400 ml of methyl tert-butyl ether are added to the reaction mixture, and the mixture is washed three times with water. The organic phase is dried over MgSO4 and the solvent is then removed under reduced pressure. This gives 20.5 g of (cis-3-allylcyclohexyloxy)-tert-butyl-diphenyl-silane as an oil. C25H340Si (378.64), MS(ESI): 379 (M+H+), Rf(n-heptane:ethyl acetate=2:1)=0.93.

reactant | cis-3-allylcyclohexanol | 6.8 g | C(C=C)[C@H]1C[C@H](CCC1)O | C9H16O
reactant | tert-butyl-diphenylsilyl chloride | 15 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 5 g | N1C=NC=C1 | C3H4N2
reactant | dimethyl-aminopyridine | 200 mg | CC1=C(C(=NC=C1)N)C | C7H10N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methyl tert-butyl ether | 400 ml | C(C)(C)(C)OC | C5H12O
product | (cis-3-Allylcyclohexyloxy)-tert-butyldiphenylsilane | C(C=C)[C@H]1C[C@H](CCC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H34OSi
